US07851072B2
Step 2: 2-(2′-methylbiphenyl-3-yl)5-methylpyridine
To a solution of 2-(3-bromophenyl)-5-methylpyridine (26.4 g, 106 mmol), o-tolylboronic acid (17.4 g, 128 mmol), palladium (II) acetate (0.60 g, 2.7 mmol), and triphenylphosphine (2.8 g, 10.7 mmol) in 215 mL of dimethoxyethane was added a solution of potassium carbonate (39.7 g, 287 mmol) in 145 mL of water. The reaction mixture was heated at reflux under a nitrogen atmosphere for 16 h and cooled. Ethyl acetate was added, and the aqueous phase was discarded. Evaporation of the organic phase after drying over magnesium sulfate yielded a yellow liquid that was then subjected to vacuum distillation at 160° C. to remove most of the impurities. Further distillation at 220° C. yielded 29.9 g of a colorless liquid that was further purified by silica gel column chromatography with 10/90 ethyl acetate/hexane as the eluent to give 22.5 g (81%) of pure 2-(2′-methylbiphenyl-3-yl)pyridine as a colorless, viscous liquid.

reactant | 2-(3-bromophenyl)-5-methylpyridine | 106 mmol, 26.4 g | BrC=1C=C(C=CC1)C1=NC=C(C=C1)C | C12H10BrN
reactant | o-tolylboronic acid | 128 mmol, 17.4 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | potassium carbonate | 287 mmol, 39.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethoxyethane | 215 mL | C(OC)COC | C4H10O2
solvent | water | 145 mL | O | H2O
catalyst | palladium (II) acetate | 2.7 mmol, 0.60 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 10.7 mmol, 2.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-(2′-methylbiphenyl-3-yl)5-methylpyridine | 29.9 g | CC1=C(C=CC=C1)C1=CC(=CC=C1)C1=NC=C(C=C1)C | C19H17N
